US08138177B2
Step 4. N-[(1S 2S)-1-(Aminocarbonyl)-2-methylbutyl]-3-(2-morpholin-4-ylethyl)-2-oxo-2,3-dihydro-1H-benzimidazole-1-carboxamide hydrochloride
To a solution of 1-(2-morpholin-4-ylethyl)-1,3-dihydro-2H-benzimidazol-2-one (530 mg, 2.1 mmol) in dichloromethane (8 mL) were added triethylamine (1.0 mL, 7.0 mmol) and 4-nitrophenyl chloroformate (470 mg, 2.3 mmol) at 0° C. and the mixture was stirred for 3 h at rt. Then to this mixture was added a mixture of L-isoleucinamide hydrochloride (430 mg, 2.6 mmol) and triethylamine (0.6 mL, 4.3 mmol) in dichloromethane (4 mL) at 0° C. and stirred rt. After 22 h, the reaction was quenched by addition of water (50 mL) and extracted with dichloromethane (50 mL×2). The combined organic layers were washed with water (20 mL×3), brine (20 mL) and dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (1/4) to afford 600 mg (70%) of free form of the title compound. The obtained compound was dissolved in ethyl acetate (1 mL) and to this solution was added 4N HCl in ethyl acetate (0.4 mL) to form white solid which was filtered and dried in vacuo to give the title compound (600 mg).

reactant | 1-(2-morpholin-4-ylethyl)-1,3-dihydro-2H-benzimidazol-2-one | 2.1 mmol, 530 mg | N1(CCOCC1)CCN1C(NC2=C1C=CC=C2)=O | C13H17N3O2
reactant | triethylamine | 7.0 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenyl chloroformate | 2.3 mmol, 470 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | L-isoleucinamide hydrochloride | 2.6 mmol, 430 mg | Cl.N[C@@H]([C@@H](C)CC)C(=O)N
reactant | triethylamine | 4.3 mmol, 0.6 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | N-[(1S 2S)-1-(Aminocarbonyl)-2-methylbutyl]-3-(2-morpholin-4-ylethyl)-2-oxo-2,3-dihydro-1H-benzimidazole-1-carboxamide hydrochloride | Cl.NC(=O)[C@H]([C@H](CC)C)NC(=O)N1C(N(C2=C1C=CC=C2)CCN2CCOCC2)=O | InChI=1S/C20H29N5O4.ClH/c1-3-14(2)17(18(21)26)22-19(27)25-16-7-5-4-6-15(16)24(20(25)28)9-8-23-10-12-29-13-11-23;/h4-7,14,17H,3,8-13H2,1-2H3,(H2,21,26)(H,22,27);1H/t14-,17-;/m0./s1
